US09403747B2
SDS-PAGE-Based Prenyltransferase Assay
In vitro prenylation reactions were performed in 20 μl reaction buffer (50 mM HEPES, pH 7.2, 50 mM NaCl, 5 mM MgCl2, 5 mM DTT, and 20 μM GDP) mixed with 3 μg FTase (Jena, Germany), 25 μM NBD-FPP, and 2 μg H-RasGST in the presence or absence of various concentrations of Antroquinonol. Reactions were incubated for 3 h at 37° C. and quenched by adding 20 μl 2×SDS-PAGE sample buffer and boiling at 95° C. for 3 min. Finally, the mixtures were resolved by 15% SDS-PAGE. The gel was scanned using a Typhoon 9400 scanner (GE Healthcare, UK) (excitation laser, 473 nm; emission cutoff filter, 510 nm) followed by staining with Coomassie blue. The fluorescent bands were quantified using Image-Pro Plus software (Media Cybernetics, Silver Spring, Md., USA).

reactant | HEPES | 50 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | NaCl | 50 mM, pH 7.2 | [Na+].[Cl-]
reactant | MgCl2 | 5 mM | [Mg+2].[Cl-].[Cl-]
reactant | DTT | 5 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | Antroquinonol | C[C@@H]1[C@H]([C@H](C(=C(C1=O)OC)OC)O)C/C=C(\C)/CC/C=C(\C)/CCC=C(C)C | C24H38O4
product | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+] | InChI=1S/C12H26O4S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;/h2-12H2,1H3,(H,13,14,15);/q;+1/p-1
